US04517119
(d) H-Glu(OtBu)-Lys(Boc)-Lys(Boc)-Glu(OtBu)-Val-Val-Glu(OtBu)-Glu(OtBu)-Ala-Glu(OtBu)-Asn-OtBu
A solution of Z-Glu(OtBu)-Lys(Boc)-Lys(Boc)-Glu(OtBu)-Val-Val-Glu(OtBu)-Glu(OtBu)-Ala-Glu(OtBu)-Asn-OtBu (45.0 g, 23 mmol) in TFE (1.1 L) containing 10% Pd-BaSO4 (15 g) was hydrogenated in a Vibromixer apparatus for 3 h. The reaction mixture was filtered through celite which was washed with TFE (3×100 mL). The combined filtrate was evaporated to dryness and taken up in DMF:DMSO (1300 mL:650 mL) for use in the next stage of synthesis. A portion of the residue was precipitated from TFE-H2O, filtered and dried in vacuo; mp 326°-327°; [α]D25 -17.65° (c 1, DMSO); Rf 0.73 (n-BuOH:AcOH:EtOAc:H2O; 1-1-1-1). Anal. calc. for C88H154N14O27.H2O (1876.27): C, 56.33; H, 8.49; N, 10.45. Found: C, 56.40; H, 8.69; N, 10.55.

reactant | Z-Glu(OtBu)-Lys(Boc)-Lys(Boc)-Glu(OtBu)-Val-Val-Glu(OtBu)-Glu(OtBu)-Ala-Glu(OtBu)-Asn-OtBu | 23 mmol, 45.0 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C96H160N14O29
catalyst | Pd BaSO4 | 15 g | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | H-Glu(OtBu)-Lys(Boc)-Lys(Boc)-Glu(OtBu)-Val-Val-Glu(OtBu)-Glu(OtBu)-Ala-Glu(OtBu)-Asn-OtBu | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C88H154N14O27
